US03936401
Vinylbenzyl isothiocyanate was prepared in the following manner. 76 g (0.5 moles) of vinylbenzyl chloride were dissolved in 300 ml of dimethylformamide (DMF). To this solution were added 56 g (0.575 moles) of potassium thiocyanate and 28 g (0.187 moles) of sodium iodide. The mixture was heated for 30 minutes at 150°C and then the major portion of DMF was flashed off with a water aspirator vacuum. The solid flask residue was extracted with 750 ml of diethyl ether. The filtered diethyl ether phase yielded 80 g of yellowish liquid. Vacuum distillation gave 30 g (35% yield) of pale yellow vinylbenzyl isothiocyanate liquid, ##SPC9##

reactant | vinylbenzyl chloride | 0.5 moles, 76 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | potassium thiocyanate | 0.575 moles, 56 g | [S-]C#N.[K+]
reactant | sodium iodide | 0.187 moles, 28 g | [I-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Vinylbenzyl isothiocyanate | C(=C)C(C1=CC=CC=C1)N=C=S | C10H9NS
